US06277790B1
N-(2,4-Dimethylthiophen-3-yl)-N-n-propyl-4,5-dihydro-4-(2-fluoro-phenyl)-1H-tetrazol-5-one-1-carboxamide (No. Ih.12)
1.17 g (6.5 mmol) of 1,2-dihydro-1-(2-fluorophenyl)-5H-tetrazol-5-one, 1.5 g (6.5 mmol) of N-(2,4-dimethyl-thiophen-3-yl)-N-n-propylcarbamoyl chloride and 1.19 g (9.7 mmol) of 4-dimethylaminopyridine were reacted by the method of the process described in Example 1. Yield 1.9 g.

reactant | 1,2-dihydro-1-(2-fluorophenyl)-5H-tetrazol-5-one | 6.5 mmol, 1.17 g | FC1=C(C=CC=C1)N1NN=NC1=O | C7H5FN4O
reactant | N-(2,4-dimethyl-thiophen-3-yl)-N-n-propylcarbamoyl chloride | 6.5 mmol, 1.5 g | CC=1SC=C(C1N(C(=O)Cl)CCC)C | C10H14ClNOS
catalyst | 4-dimethylaminopyridine | 9.7 mmol, 1.19 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(2,4-Dimethylthiophen-3-yl)-N-n-propyl-4,5-dihydro-4-(2-fluoro-phenyl)-1H-tetrazol-5-one-1-carboxamide | CC=1SC=C(C1N(C(=O)N1N=NN(C1=O)C1=C(C=CC=C1)F)CCC)C | C17H18FN5O2S
